US06911543B2
2-(3-Bromo-2-furyl)-1,3-dioxolane (438 mg, 2.0 mmol) is dissolved in Et2O (5 mL) in a dry flask under nitrogen, cooled to −78° C., treated dropwise with tert-butyllithium (2.59 mL, 4.4 mmol) and stirred for 1 h. DMF (178 μL, 2.3 mmol) in Et2O (2 mL) is added dropwise, the mixture stirred for 4 h at −78° C., then treated with oxalic acid dihydrate (504 mg, 4.0 mmol) followed by water (2 mL). The cooling bath is removed and the mixture allowed to warm to RT over 1 h. The mixture is diluted with water (20 mL) and EtOAc (20 mL), the layers are separated and the aqueous layer extracted with EtOAc (1×20 mL). The organics are dried over Na2SO4 and concentrated to a yellow oil. The crude material is chromatographed over 12 g slurry-packed silica gel, eluting with 15% EtOAc/hexane. The appropriate fractions are combined and concentrated in vacuo to afford 228 mg (68%) of 2-(1,3-dioxolan-2-yl)-3-furaldehyde as a pale yellow oil. MS (EI) m/z: 168 (M+). 2-(1,3-Dioxolan-2-yl)-3-furaldehyde (2.91 g, 17.31 mmol) is combined with formic acid (17 mL, 451 mmol) and water (4.25 mL) and stirred at RT for 18 h. The mixture is slowly transferred into a solution of NaHCO3 (45 g, 541 mmol) in water (600 mL), then stirred for 0.5 h. EtOAc (200 mL) is added, the layers separated and the aqueous layer extracted with EtOAc (2×200 mL). The combined organics are dried over Na2SO4 and concentrated to a yellow oil (3.28 g). The crude material is chromatographed over 90 g slurry-packed silica gel, eluting with 20% EtOAc/hexane. The appropriate fractions are combined and concentrated to afford 2.45 g of furan-2,3-dicarbaldehyde slightly contaminated with ethylene glycol diformate as a yellow oil. 1H NMR (CDCl3): δ 7.00 (d, J=2 Hz, 1H), 7.67 (d, J=2 Hz, 1H), 10.07 (s, 1 H), 10.49 (s, 1 H) ppm.

reactant | 2-(3-Bromo-2-furyl)-1,3-dioxolane | 2.0 mmol, 438 mg | BrC1=C(OC=C1)C1OCCO1 | C7H7BrO3
reactant | tert-butyllithium | 4.4 mmol, 2.59 mL | C(C)(C)(C)[Li]
reactant | DMF | 2.3 mmol, 178 μL | CN(C)C=O | C3H7NO
reactant | oxalic acid dihydrate | 4.0 mmol, 504 mg | O.O.C(C(=O)O)(=O)O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 2 mL | CCOCC | C4H10O
solvent | water | 2 mL | O | H2O
product | 2-(1,3-dioxolan-2-yl)-3-furaldehyde | 228 mg, 68% | O1C(OCC1)C=1OC=CC1C=O | C8H8O4
